US08349824B2
The product was prepared in the same manner as described in example 44d using 2-(2-fluoropyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine (500 mg, 2.18 mmol) and 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (519 mg, 2.62 mmol) as starting materials. The reaction affords 5-[2-(2-fluoro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (761 mg, 85.2%) as white solid. mp.: 249-251° C., MS: m/z=410.0 (M+H+).

reactant | 2-(2-fluoropyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 2.18 mmol, 500 mg | FC1=NC=CC=C1C1=NN2C(C=C(C=C2)N)=N1 | C11H8FN5
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 2.62 mmol, 519 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
product | 5-[2-(2-fluoro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 761 mg, 85.2% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)C=2C(=NC=CC2)F)=O)C | C19H16FN7O3
